MM4 (net28 net6 net12 net22) pmos4
MM3 (net29 net10 net12 net22) pmos4
MM0 (net12 VB1 VDD VDD) pmos4
MM6 (net16 VB2 net25 VDD) pmos4
MM5 (net13 VB2 net24 VDD) pmos4
MM2 (net25 net16 VDD VDD) pmos4
MM1 (net24 net16 VDD VDD) pmos4
MM10 (net29 net1001 VSS VSS) nmos4
MM9 (net28 net1001 VSS VSS) nmos4
MM8 (net16 net1003 net29 VSS) nmos4
MM7 (net13 net1003 net28 VSS) nmos4
MM15 (net1003 net1003 net1001 VSS) nmos4
MM13 (net1001 net1001 VSS VSS) nmos4
MM14 (net1003 net1006 VDD VDD) pmos4
MM3 (net1006 net1006 VDD VDD) pmos4
MM1 (VB3 net1006 VDD VDD) pmos4
RR0 (net15 VSS) resistor
MM0 (VB3 VB3 VSS VSS) nmos4
MM2 (net1006 VB3 net15 VSS) nmos4
M3 (net12 net13 VDD VDD) pmos4
M2 (VOUT1 net13 VDD VDD) pmos4
M1 (net6 net13 VDD VDD) pmos4
M0 (net5 net13 VDD VDD) pmos4
R1 (net10 net16) resistor
R0 (VOUT1 net10) resistor
Q3 (VSS VSS net12 0) pnp
Q2 (VSS VSS net5 0) pnp
Q1 (VSS net5 net6 0) pnp
Q0 (VSS net12 net16 0) pnp